US04159338
(C) 4-(4-Chlorophenyl)-5-(2-thienyl)-1H-imidazole
A mixture of 35 g of 2-bromo-2-(4-chlorophenyl)-1-(2-thienyl)ethanone and 200 ml of formamide was refluxed under an air condenser for two hours. It was cooled, poured into water and the pH adjusted to 8-9 by adding ammonium hydroxide. Chloroform was added to the solution, and solid separated and was filtered and washed with chloroform; yield 19.3 g. This was recrystallized from dimethylformamide, filtered and washed with acetonitrile; yield 14.7 g, m.p. 244°-245° C.

reactant | 2-bromo-2-(4-chlorophenyl)-1-(2-thienyl)ethanone | 35 g | BrC(C(=O)C=1SC=CC1)C1=CC=C(C=C1)Cl | C12H8BrClOS
reactant | formamide | 200 ml | C(=O)N | CH3NO
reactant | water | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Chlorophenyl)-5-(2-thienyl)-1H-imidazole | ClC1=CC=C(C=C1)C=1N=CNC1C=1SC=CC1 | C13H9ClN2S
